US20010011144A1
The fraction was charged in an autoclave, and Pd/C (5% Pd supported on charcoal) was added in a proportion of 1% based on the fraction. The resulting mixture was heated to 250° C., followed by a reaction under spontaneous pressure for 2 hours. After completion of the reaction, the reaction mixture was analyzed by gas chromatography. A mixture of position isomers of methylfluorene was found to have been formed with a yield of 96% (based on methyltetrahydrofluorene), and indane with a yield of 99% (based on indene).

reactant | methylfluorene | CC1=CC=CC=2C3=CC=CC=C3CC12 | C14H12
catalyst | Pd/C | [Pd] | Pd
product | indane | yield of 96% | C1CCC2=CC=CC=C12 | C9H10
